US04717480
In 100 ml of an aqueous solution containing 20% by volume of ethanol were incorporated 100 ml of a mixed liquid comprising trioctyl phosphate and 2,6,10,14-tetramethylpentadecane at a weight ratio of 2:1 and 0.2 g of sodium laurylsulfate, and ultrasonic vibration having a frequency of 28 KHz was applied to the liquid mixture for 2 minutes to form an emulsion in which particles of the trioctyl phosphate/2,6,10,14-tetramethylpentadecane mixed liquid having an average particle diameter of 0.3 μm were dispersed in the aqueous solution of ethanol. The emulsion was filtered at a potential gradient of 4.5 V/cm under a pressure of 0.01 kg/cm2 through a polytetrafluoroethylene porous membrane having a nominal average pore size of 2.0 μm. Only the phase of trioctyl phosphate/2,6,10,14-tetramethylpentadecane dispersed in the form of particles permeated through the membrane at a flow rate of 48 kg/m2.hr, and the permeated liquid formed a continuous phase.

reactant | trioctyl phosphate | P(=O)(OCCCCCCCC)(OCCCCCCCC)OCCCCCCCC | C24H51O4P
reactant | 2,6,10,14-tetramethylpentadecane | CC(C)CCCC(CCCC(CCCC(C)C)C)C | C19H40
reactant | sodium laurylsulfate | 0.2 g | C(CCCCCCCCCCC)OS(=O)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | trioctyl phosphate 2,6,10,14-tetramethylpentadecane | P(=O)(OCCCCCCCC)(OCCCCCCCC)OCCCCCCCC.CC(C)CCCC(CCCC(CCCC(C)C)C)C | InChI=1S/C24H51O4P.C19H40/c1-4-7-10-13-16-19-22-26-29(25,27-23-20-17-14-11-8-5-2)28-24-21-18-15-12-9-6-3;1-16(2)10-7-12-18(5)14-9-15-19(6)13-8-11-17(3)4/h4-24H2,1-3H3;16-19H,7-15H2,1-6H3
